US07897762B2
To a solution of diphosgene (1.15 mL, 9.5 mmol) in anhydrous dioxane (100 mL) was added a mixture of 5-((4-fluoro-3-nitrophenylamino)methyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine (3.0 g, 9.0 mmol) and Et3N (2.5 mL, 18.0 mmol) in dioxane (200 mL) at 10° C. After addition, the resulting mixture was stirred at 30° C. for 10 h. H2O was added to quench the above reaction and the mixture was neutralized to pH 7 with saturated Na2CO3 solution. The dioxane was removed under reduced pressure and the remaining aqueous solution was extracted with EtOAc (3×50 mL). The combined organics were washed with brine, dried over MgSO4 and concentrated to give 3-(4-fluoro-3-nitrophenyl)-7-(methoxy(methyl)amino)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (2.1 g, 65% yield), which was used in the next step without further purification. 1H NMR (300 MHz, DMSO-d6): δ 8.15 (m, 1 H), 7.97 (s, 1 H), 7.80 (m, 1 H), 7.62 (t, J=9.3 Hz, 1 H), 6.58 (s, 1 H), 4.80 (s, 2 H), 3.72 (s, 3 H), 3.27 (s, 3 H), 3.15 (s, 3 H); MS (ESI) m/z: 362.2 (M+H+).

reactant | diphosgene | 9.5 mmol, 1.15 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 5-((4-fluoro-3-nitrophenylamino)methyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine | 9.0 mmol, 3.0 g | FC1=C(C=C(C=C1)NCC=1C(=CC(=NC1)N(C)OC)NC)[N+](=O)[O-] | C15H18FN5O3
reactant | Et3N | 18.0 mmol, 2.5 mL | CCN(CC)CC | C6H15N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | 3-(4-fluoro-3-nitrophenyl)-7-(methoxy(methyl)amino)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 2.1 g, 65% yield | FC1=C(C=C(C=C1)N1C(N(C2=C(C1)C=NC(=C2)N(C)OC)C)=O)[N+](=O)[O-] | C16H16FN5O4
